US07728025B2
(Step 3) Production of 3-(2-methoxyphenoxy)-5-(pyridin-3-yloxy)-benzene-1,2-diamine
1 g of 20% palladium hydroxide-carbon catalyst was added to a methanol (20 ml) solution of 1.33 g of 3-(2-methoxyphenoxy)-2-nitro-5-(pyridin-3-yloxy)-aniline, and the reaction liquid was stirred for 4 hours in a hydrogen atmosphere. The catalyst was removed through filtration, the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/2 to ethyl acetate) to obtain the entitled compound as a pale orange oily substance.

reactant | 3-(2-methoxyphenoxy)-2-nitro-5-(pyridin-3-yloxy)-aniline | 1.33 g | COC1=C(OC=2C(=C(N)C=C(C2)OC=2C=NC=CC2)[N+](=O)[O-])C=CC=C1 | C18H15N3O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide carbon | 1 g | [OH-].[Pd+2].[OH-].[C]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(2-methoxyphenoxy)-5-(pyridin-3-yloxy)-benzene-1,2-diamine | COC1=C(OC2=C(C(=CC(=C2)OC=2C=NC=CC2)N)N)C=CC=C1 | C18H17N3O3
